US07235558B2
A) N-(4-aminobenzyl)amino-1H-benzimidazole
To the solution of 0.145 g (0.98 mmol) of 4-nitrobenzaldehyde in 3 ml of dichloromethane was added 0.31 g (1.47 mmol) of sodium triacetoxyborohydride, 0.6 ml (0.98 mmol) of acetic acid and 0.13 g (0.98 mmol) of 6-aminoindazole. After stirring the mixture overnight at room temperature, the solvent was evaporated. The resulting residue was dissolved in 10 ml of ethanol, 20 mg of 10% palladium on carbon was added and stirred under hydrogen atmosphere overnight. The catalyst was filtered off through celite. After evaporation of the solvent the residue was purified by HPLC and lyophilized to yield 0.2 g (86%) of the title compound. 1H-NMR (CDCl3) δ: 4.12 (2H,br), 6.50–6.70 (5H, m), 7.52 (1H, d), 7.86–7.94 (2H, m), 8.18 (1H, br), 8.29 (1H, br).

reactant | 4-nitrobenzaldehyde | 0.98 mmol, 0.145 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | sodium triacetoxyborohydride | 1.47 mmol, 0.31 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.98 mmol, 0.6 ml | C(C)(=O)O | C2H4O2
reactant | 6-aminoindazole | 0.98 mmol, 0.13 g | NC1=CC=C2C=NNC2=C1 | C7H7N3
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | N-(4-aminobenzyl)amino-1H-benzimidazole | 0.2 g, 86% | NC1=CC=C(CNN2C=NC3=C2C=CC=C3)C=C1 | C14H14N4
